US07915443B2
(S)-Methyl 5-[N-({5-[(3-{[(1,3-dimethyl-1H-pyrazol-5-yl)carbonyl]amino}phenyl)ethynyl]pyridin-3-yl}carbonyl)-S-phenylsulfonimidoyl]pentanoate
To the flame-dried 100 mL round bottom flask containing (S)-Methyl 5-{N-[(5-bromopyridin-3-yl)carbonyl]-S-phenylsulfonimidoyl}pentanoate (609 mg, 1.39 mmol), N-(3-ethynylphenyl)-1,3-dimethyl-1H-pyrazole-5-carboxamide (0.50 g), triethylamine (0.77 mL), bis(triphenylphosphine)palladium(II) dichloride (97.3 mg), and triphenylphosphine (9.1 mg) under nitrogen/hydrogen (1:1) atmosphere at room temperature was added copper(I) iodide (52.8 mg). The resulting reaction mixture was heated and stirred at 60° C. for 1 hour. It was then diluted with EtOAc, washed sequentially with saturated aqueous NaHCO3 (2×), brine (1×), and finally dried with anhydrous sodium sulfate. The solution was decanted and concentrated with silica gel. Chromatography (EtOAc-Hex from 1:2 to 3:2) yielded the title compound as white foam in amount of (712 mg, 86%).

reactant | (S)-Methyl 5-{N-[(5-bromopyridin-3-yl)carbonyl]-S-phenylsulfonimidoyl}pentanoate | 1.39 mmol, 609 mg | BrC=1C=C(C=NC1)C(=O)N=[S@@](=O)(C1=CC=CC=C1)CCCCC(=O)OC | C18H19BrN2O4S
reactant | N-(3-ethynylphenyl)-1,3-dimethyl-1H-pyrazole-5-carboxamide | 0.50 g | C(#C)C=1C=C(C=CC1)NC(=O)C1=CC(=NN1C)C | C14H13N3O
reactant | triethylamine | 0.77 mL | C(C)N(CC)CC | C6H15N
reactant | triphenylphosphine | 9.1 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 97.3 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 52.8 mg | [Cu]I
product | (S)-Methyl 5-[N-({5-[(3-{[(1,3-dimethyl-1H-pyrazol-5-yl)carbonyl]amino}phenyl)ethynyl]pyridin-3-yl}carbonyl)-S-phenylsulfonimidoyl]pentanoate | CN1N=C(C=C1C(=O)NC=1C=C(C=CC1)C#CC=1C=C(C=NC1)C(=O)N=[S@@](=O)(C1=CC=CC=C1)CCCCC(=O)OC)C | C32H31N5O5S
